US06677352B1
To a suspension of 2-anilino-6-bromo-7-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (41 mg, 0.1 mmol) in DMF (2.0 mL) were successively added Pd(OAc)2 (0.70 mg, 0.003 mmol), Ph3P (5.2 mg, 0.02 mmol), TEA (0.03 mL) and methyl acrylate (17.2 mg, 0.2 mmol). The suspension was heated at 120° C. in a sealed tube for 64 h. The residue obtained after concentration in vacuo was washed with water and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo. Purification by prep-HPLC provided methyl (2E)-3-(7-anilino-2-methyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridin-3-yl)-2-propenoate (10.0 mg, 24%): LCMS RT: 2.61 min, MH+: 412.3, Rf=0.26 (1:1 EtOAc:Hex).

reactant | 2-anilino-6-bromo-7-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.1 mmol, 41 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)Br)C)C1=CC=CC=C1 | C21H16BrN3O
reactant | Ph3P | 0.02 mmol, 5.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | methyl acrylate | 0.2 mmol, 17.2 mg | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.003 mmol, 0.70 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl (2E)-3-(7-anilino-2-methyl-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridin-3-yl)-2-propenoate | 10.0 mg, 24% | N(C1=CC=CC=C1)C1=CC(C=2C=C(C(=NC2N1C1=CC=CC=C1)C)/C=C/C(=O)OC)=O | C25H21N3O3
